### PR TITLE
Split low projection definitions + model

### PR DESCRIPTION
**Pull request by aferr**
The two different definitions of low projection and two different models
discussed in (issue #1722)[https://github.com/project-oak/oak/issues/1722]
are both alive in the code up to some smaller theorems.

The code redundancy is not ideal at the moment, so if these are really
meant to stay alive forever, then that should be improved at some point.

# Checklist

- [ ] Pull request affects core Oak functionality (e.g. runtime, SDK, ABI)
  - [ ] I have written tests that cover the code changes.
  - [ ] I have checked that these tests are run by
        [Cloudbuild](/cloudbuild.yaml)
  - [ ] I have updated [documentation](/docs/) accordingly.
  - [ ] I have raised an [issue](https://github.com/project-oak/oak/issues) to
        cover any TODOs and/or unfinished work.
- [ ] Pull request includes prototype/experimental work that is under
      construction.

### CODE REVIEW

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 1]
```diff
@@ -86,74 +85,39 @@ Proof.
...
+        rewrite H4 in H2.
+        contradiction.
     - (* CreateNode *)
-        admit.
+        (* there are no unobservable node creations, these only happen
+        from public*)
+        pose proof (bot_is_bot ell).
+        rewrite H4 in H2.
+        contradiction.
+    (* I get this situation where:
```
Comment (aferr) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:114]: @jadephilipoom 

If you happen to have time to see what's going on here, I'd appreciate it.

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 2]
```diff
@@ -51,29 +59,48 @@ Qed.
...
 Qed.
   
 Definition node_low_proj_idempotent := @labeled_low_proj_idempotent node.
 Definition chan_low_proj_idempotent := @labeled_low_proj_idempotent channel.
 Definition event_low_proj_idempotent := @labeled_low_proj_idempotent event.
 
+(*
 Theorem state_low_proj_idempotent: forall ell, idempotent (state_low_proj ell).
 Proof.
+    (* this one is not used and looks like it needs FE to me *)
```
Comment (aferr) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:86]: Note to self to delete this because it turned out this theorem is just not used anywhere.

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 3]
```diff
@@ -386,5 +404,6 @@ Proof.
         (chans.[? h0]).
         reflexivity. symmetry. apply upd_neq; auto. 
 Qed.
+*)
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:407]: Delete this commented-out theorem, if it's unused?

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 4]
```diff
@@ -37,12 +37,11 @@ Proof.
          | _ => destruct_match
          | _ => tauto
          end.
-    intros.
     (*
     Note: I think this is not true with the low-projection def
     where labels are partially secret
     *)
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:43]: Is this note still accurate? The `Admitted` is replaced with `Qed`, so presumably the lemma is correct?

File: experimental/ni_coq/vfiles/PossibilisticNI.v (hunk 1 above)
Comment (jadephilipoom) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:114]: Do the extra goals show up if you write `Unshelve`?

**Review by jadephilipoom — APPROVED** [review]

File: experimental/ni_coq/vfiles/PossibilisticNI.v (hunk 4 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:43]: It is still accurate, but thanks for double-checking. PossibilisticNI is using the definition of low projection that is label-preserving rather than the one where the labels of secret objects get mapped into top. For the label-preserving definition this theorem is still correct. The other def is kept partially alive along with some smaller theorems about it since we might change to this other def later.

File: experimental/ni_coq/vfiles/PossibilisticNI.v (hunk 1 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:114]: Thanks :) that fixed it.
